US04623660
A mixture of 4,4'-dihydroxy-α-ethyldesoxybenzoin (4.26 g.), sodium carbonate (4.8 g.), potassium iodide (0.15 g.) and benzyl chloride (4.57 g.) in ethanol (35 ml.) and water (5 ml.) was stirred and heated under reflux for 8 hours. The mixture was cooled, filtered, and the residue washed with water and recrystallised from petrol (b.p. 100°-120° C.) to give 4,4'-dibenzyloxy-α-ethyldesoxybenzoin, m.p. 84° C.

reactant | 4,4'-dihydroxy-α-ethyldesoxybenzoin | 4.26 g | OC1=CC=C(C=C1)C(=O)C(C1=CC=C(C=C1)O)CC | C16H16O3
reactant | sodium carbonate | 4.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.15 g | [I-].[K+]
reactant | benzyl chloride | 4.57 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 35 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4,4'-dibenzyloxy-α-ethyldesoxybenzoin | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C(C1=CC=C(C=C1)OCC1=CC=CC=C1)CC | C30H28O3
